US08138197B2
Methyl 3-cyano-5-ethoxybenzoate
A mixture of methyl 3-ethoxy-5-trifluoromethanesulfonyloxybenzoate (308 mg, 0.94 mmol), zinc cyanide (165 mg, 1.41 mmol), tetrakis(triphenylphosphine)palladium(0) (54 mg, 0.05 mmol) and DMF (2.0 mL) was stirred in a nitrogen atmosphere at 80° C. for 12 hours. After left cooled, the reaction mixture was diluted with ethyl acetate (30 mL), washed with aqueous 14% ammonia and aqueous saturated sodium chloride solution, dried with sodium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography to obtain the title compound as a colorless solid.

reactant | methyl 3-ethoxy-5-trifluoromethanesulfonyloxybenzoate | 0.94 mmol, 308 mg | C(C)OC=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F | C11H11F3O6S
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 1.41 mmol, 165 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 54 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-cyano-5-ethoxybenzoate | C(#N)C=1C=C(C(=O)OC)C=C(C1)OCC | C11H11NO3
